US07964293B2
Into a flask, 0.6 g of 9,9-dihexyl-fluorene-2,7-diboronic acid, 0.5 g of 5-bromo-2,3′-bipyridine, 115 mg of Pd(PPh3)4, 1.27 g of tripotassium phosphate, and 20 ml of toluene were put, and the solution was stirred at reflux temperature for 6.5 hours under argon atmosphere. After heating, the reaction liquid was cooled to room temperature, and washed by a saturated sodium chloride aqueous solution. The organic layer was concentrated in an evaporator, and the concentrates were purified by activated alumina column chromatography. The concentrates were recrystallized in a heptane/ethyl acetate mixed solvent, and thus 150 mg of 2,7-bis(2,3′-bipyridine-5-yl)-9,9-dihexylfluorene was obtained.

reactant | 9,9-dihexyl-fluorene-2,7-diboronic acid | 0.6 g | C(CCCCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)B(O)O)B(O)O)CCCCCC | C25H36B2O4
reactant | 5-bromo-2,3′-bipyridine | 0.5 g | BrC=1C=CC(=NC1)C=1C=NC=CC1 | C10H7BrN2
reactant | tripotassium phosphate | 1.27 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(PPh3)4 | 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2,7-bis(2,3′-bipyridine-5-yl)-9,9-dihexylfluorene | 150 mg | N1=C(C=CC(=C1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C=1C=CC(=NC1)C=1C=NC=CC1)(CCCCCC)CCCCCC)C=1C=NC=CC1 | C45H46N4
